US08114865B2
Step 1. 2,2,2-trifluoro-N-[5-(3-fluoro-benzenesulfonyl)-1H-indazol-3-yl]-acetamide [(XXI), R1=R2=R3=H, R=3-fluorophenyl]
A suspension of 5-(3-fluoro-benzenesulfonyl)-1H-indazol-3-ylamine (15.35 g, 52.69 mmol) in dry dichloromethane (200 mL) was treated with trifluoroacetic anhydride (23 mL, 163.4 mmol) and stirred overnight at room temperature. The solution was evaporated, treated with ethyl acetate and aqueous sodium hydrogen carbonate. The organic phase was separated, and the aqueous phase was further extracted with ethyl acetate. The combined organic extracts were dried and evaporated. The solid was triturated with a small amount of dichloromethane and filtered affording 18 g (88.3%) of title compound as a white powder.

reactant | 5-(3-fluoro-benzenesulfonyl)-1H-indazol-3-ylamine | 52.69 mmol, 15.35 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2C(=NNC2=CC1)N | C13H10FN3O2S
reactant | trifluoroacetic anhydride | 163.4 mmol, 23 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-[5-(3-fluoro-benzenesulfonyl)-1H-indazol-3-yl]-acetamide | 18 g, 88.3% | FC(C(=O)NC1=NNC2=CC=C(C=C12)S(=O)(=O)C1=CC(=CC=C1)F)(F)F | C15H9F4N3O3S
